US07432256B2
a) 2-(4-Methyl-imidazol-1-yl)-benzonitrile
In analogy to example 5a, 2-fluoro-benzonitrile was reacted with 4-methylimidazole and potassium carbonate for 16 h at 90° C. After aqueous workup the title compound was obtained as a white solid (yield: 60%). MS: m/e=184.2 [M+H]+.

reactant | 2-fluoro-benzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-(4-Methyl-imidazol-1-yl)-benzonitrile | CC=1N=CN(C1)C1=C(C#N)C=CC=C1 | C11H9N3
